US03931143
1-t-Butylhydrazo-1-cyanocyclooctane was prepared in 100% yield using the same procedure described in Example XIIIB for the preparation of 1-t-butylhydrazo-1-cyano-1-cyclopropylethane, substituting the t-butylhydrazone of cyclooctanone for the t-butylhydrazone of methyl cyclopropyl ketone.

reactant | 1-t-butylhydrazo-1-cyano-1-cyclopropylethane | C(C)(C)(C)NNC(C)(C1CC1)C#N | C10H19N3
reactant | cyclooctanone | C1(CCCCCCC1)=O | C8H14O
reactant | methyl cyclopropyl ketone | C1(CC1)C(=O)C | C5H8O
product | 1-t-Butylhydrazo-1-cyanocyclooctane | 100% yield | C(C)(C)(C)NNC1(CCCCCCC1)C#N | C13H25N3
